US09120749B2
1-(6-bromo-4-(4-((4-methylpiperazin-1-yl)methyl)phenylamino)quinolin-3-yl)ethanone
Following general procedure C, 1-(6-bromo-4-chloroquinolin-3-yl)ethanone (5.0 g, 18.0 mmol) was reacted with 4-((4-methylpiperazin-1-yl)methyl)aniline (4.0 g, 19.0 mmol) to afford the desired product (6.7 g, 82%) as a yellow foam: 1H NMR (300 MHz, CDCl3) δ 11.96 (s, 1H), 9.11 (s, 1H), 7.85-7.72 (m, 1H), 7.71-7.57 (m, 2H), 7.40-7.29 (m, 2H), 7.14-7.02 (m, 2H), 3.53 (s, 2H), 2.77 (s, 3H), 2.58-2.44 (br s, 8H), 2.30 (s, 3H).

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)ethanone | 18.0 mmol, 5.0 g | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)Cl | C11H7BrClNO
reactant | 4-((4-methylpiperazin-1-yl)methyl)aniline | 19.0 mmol, 4.0 g | CN1CCN(CC1)CC1=CC=C(N)C=C1 | C12H19N3
product | 1-(6-bromo-4-(4-((4-methylpiperazin-1-yl)methyl)phenylamino)quinolin-3-yl)ethanone | 6.7 g, 82% | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC1=CC=C(C=C1)CN1CCN(CC1)C | C23H25BrN4O
